US08623889B2
1-(5-(3-aminoisoquinolin-7-yl)-4-methylpyridin-2-yl)-2,2,2-trifluoroethanol
A mixture of 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-amine (225 mg, 0.583 mmol), 1-(5-bromo-4-methyl-2-pyridyl)-2,2,2-trifluoro-ethanol (200 mg, 0.741 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (41 mg, 0.06 mmol) and saturated aqueous sodium carbonate solution (0.3 mL) in acetonitrile (3 mL) was heated under microwave irradiation (Biotage) at 130° C. for 30 minutes. The reaction mixture was diluted with ethyl acetate (30 mL) and washed with water (15 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was purified by flash chromatography (4 g, Silica, 0-100% ethyl acetate in heptane). Desired fractions were combined and evaporated in vacuo to afford the title compound as yellow oil (150 mg, 77%), which was used in the next step without further purification.

reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-amine | 0.583 mmol, 225 mg | CC1(OB(OC1(C)C)C1=CC=C2C=C(N=CC2=C1)N)C | C15H19BN2O2
reactant | 1-(5-bromo-4-methyl-2-pyridyl)-2,2,2-trifluoro-ethanol | 0.741 mmol, 200 mg | BrC=1C(=CC(=NC1)C(C(F)(F)F)O)C | C8H7BrF3NO
reactant | sodium carbonate | 0.3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.06 mmol, 41 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 1-(5-(3-aminoisoquinolin-7-yl)-4-methylpyridin-2-yl)-2,2,2-trifluoroethanol | 150 mg, 77% | NC=1N=CC2=CC(=CC=C2C1)C=1C(=CC(=NC1)C(C(F)(F)F)O)C | C17H14F3N3O
